US04540580
A. N-allyloxycarbonyl-D-methionine
To a solution of 15.00 g D-methionine in 25.2 ml 4N sodium hydroxide cooled to about 0° C. is added, with stirring, 15.60 ml allyl chloroformate and 41.49 ml 4N sodium hydroxide. After the addition is completed, the reaction is stirred for an additional ten minutes at 0° C. and then allowed to warm to room temperature for an additional 20 minutes. The reaction mixture is then washed twice with ethyl ether. The aqueous layers are separated, acidified to pH2 with concentrated hydrochloric acid and then refrigerated for one hour. The cooled solution is then extracted three times with 100 ml portions of ethyl ether. The ether extracts are combined, dried over anhydrous sodium sulfate and the solvents removed under vacuum to afford the title product having

reactant | D-methionine | 15.00 g | N[C@H](CCSC)C(=O)O | C5H11NO2S
reactant | allyl chloroformate | 15.60 ml | ClC(=O)OCC=C | C4H5ClO2
solvent | sodium hydroxide | 4N, 25.2 ml | [OH-].[Na+]
solvent | sodium hydroxide | 4N, 41.49 ml | [OH-].[Na+]
product | N-allyloxycarbonyl-D-methionine | C(C=C)OC(=O)N[C@H](CCSC)C(=O)O | C9H15NO4S
